US04036973
Thionyl chloride (5 ml.) and 1.6 g. of 1-[3'-(n-decyloxy)-2'-hydroxypropyl]imidazole are warmed gently for a period of 2 hours and the solution is then evaporated to dryness. The residue is dissolved in dichloromethane and rendered basic with aqueous potassium carbonate solution. The organic layer is separated, dried over magnesium sulfate and evaporated to yield 1-[2'-chloro-3'-(n-decyloxy)propyl]imidazole.

reactant | Thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-[3'-(n-decyloxy)-2'-hydroxypropyl]imidazole | C(CCCCCCCCC)OCC(CN1C=NC=C1)O | C16H30N2O2
product | 1-[2'-chloro-3'-(n-decyloxy)propyl]imidazole | ClC(CN1C=NC=C1)COCCCCCCCCCC | C16H29ClN2O
